US04782155
Preparation of 6,7-dihydroxyisoquinoline hydrobromide
63.4 g (0.28 mol) of 6,7-dimethoxyisoquinoline hydrochloride was dissolved in 630 ml of 47% hydrobromic acid, and the mixture was refluxed for 24 hours under stirring in nitrogen atmosphere. The reaction mixture was allowed to stand still under cooling with ice. The crystals formed were collected by filtration and washed with cold water and acetone. They were dried in air overnight and then dried at a temperature of from 90° to 95° C. for 6 hours to obtain 66.4 g (yield: 97.6%) of the above identified compound.

reactant | 6,7-dimethoxyisoquinoline hydrochloride | 0.28 mol, 63.4 g | Cl.COC=1C=C2C=CN=CC2=CC1OC
reactant | hydrobromic acid | 630 ml | Br | BrH
product | 6,7-dihydroxyisoquinoline hydrobromide | yield: 97.6% | Br.OC=1C=C2C=CN=CC2=CC1O | InChI=1S/C9H7NO2.BrH/c11-8-3-6-1-2-10-5-7(6)4-9(8)12;/h1-5,11-12H;1H
